reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([O:3][C@:5]1([H:14])[C:4]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],67.0840683858174
[C-:4]#[O+:5].[O:1]([C:2]([C:3](=[C:6]=[C:7]([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],49.060220776943154
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](\[C:5]([H:13])([H:14])[H:15])[O:6][H:16])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12],72.24136029906991
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O+:7]=[C-:6][H:11])[O:3][C:4]1=[O:5])([H:8])([H:9])[H:10],83.46735619796979
[C:1]([C:2](=[O+:3][C-:4]([H:11])[H:12])[H:9])([H:5])([H:6])[H:7].[H:8][H:10]>>[C:1]([C:2]([O:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7],1.2882685477032965
[C:1]([C@@:2]([O:3][H:12])([C:4]([O+:6]=[C-:5][N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],53.33943738866339
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:7][H:11].[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:9])[H:10])[H:8],87.4230783560371
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]([C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],63.928874383189104
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@@:4]([O:5][H:15])([H:14])[N:7]([H:13])[C:6]1)([H:8])[H:9],91.1034514968309
[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]=[N:5][N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],39.5438432658802
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]/[C:3](=[C:4](/[C:5]([O:6][H:14])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9],81.9436964017858
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C+:4]([N:5]([O-:6])[H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],51.9490660421875
[C-:6]#[O+:7].[C:1](/[C:2]([O:3][H:13])=[C:4](\[O:5][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],29.769528555815594
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])[H:7])[H:9],72.79234685484671
[C:1]1([H:9])([H:10])[O:2][C:3]([H:11])([H:12])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C@:6]1([O:7][H:8])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.94468663840155
[C:1]([C:2]([O:5]/[C:4](=[N:3]/[H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.35286634285768
[C:1](=[C:2]=[O:3])([H:7])[H:9].[C:4](=[C:5]=[N:6][H:8])([H:10])[H:11]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],26.496370658640394
[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15].[O:7]([H:9])[H:16]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],90.4540671996429
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([O+:5]=[C-:4][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],115.213265174019
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N+:1](#[C-:2])[C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],51.01558236950721
[N:1](/[C:2]([O:3][H:10])=[C:4](\[C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],38.8173994152599
[C:1](=[C:2]([C:3]([O:4][H:14])([H:12])[H:13])[H:11])([H:8])[H:9].[N:5](=[C:6](/[O:7][H:10])[H:16])\[H:15]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],32.54736836241369
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3]([O:4][H:14])=[C:5](/[O:6][H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],67.5214172215788
[C:4](=[C:5]([H:14])[H:15])([H:12])[H:13].[O:1]([C:2]([C:3]([O:6][H:16])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],87.99518032350619
